US04935437
A mixture of 2,2'-[5-(1-chloro-1-(pyrimidin-5-yl)methyl)-1,3-phenylene]di(2-methylpropiononitrile), (0.55 g), triethylamine (0.25 ml), 5% palladium-on-carbon (0.02 g) and ethanol (10 ml) was stirred under hydrogen at room temperature and atmospheric pressure for 10 minutes and then filtered. The filtrate was diluted with ethyl acetate (25 ml), and the solution washed with aqueous sodium hydrogen carbonate, dried and evaporated to dryness. The residue was purified by flash chromatography using 1% by volume of methanol in dichloromethane as eluant to give 2,2'-[5-(pyrimidin-5-ylmethyl)-1,3-phenylene]di(2-methylpropiononitrile), mp 132°-134°.

reactant | 2,2'-[5-(1-chloro-1-(pyrimidin-5-yl)methyl)-1,3-phenylene]di(2-methylpropiononitrile) | 0.55 g | ClC(C=1C=NC=NC1)C=1C=C(C=C(C1)C(C#N)(C)C)C(C#N)(C)C | C19H19ClN4
reactant | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium-on-carbon | 0.02 g | [Pd] | Pd
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2,2'-[5-(pyrimidin-5-ylmethyl)-1,3-phenylene]di(2-methylpropiononitrile) | N1=CN=CC(=C1)CC=1C=C(C=C(C1)C(C#N)(C)C)C(C#N)(C)C | C19H20N4
